datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)C[Si:11](C)(C)[H:10].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2>>CC(C)(C)C[Si+:11](C)C.C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[C:32](C)[N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2+:10][CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.C1C[N:10]=[C:11]2CCC[N:12]2C1>>C1C[N:10]([CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]23C4C5C6C2[Fe:42]56432789C3C2C7C8C39)[C:11]2=[N+:12](C1)CCC2 10,11=10,20;12=11,12"
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.C[O:16][C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95]([O:96]C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1>>C1=CC=C([P:22](C2=CC=CC=C2)(=[N:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[O-:23])C=C1.C[O+:16]=[C:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:86]C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95]([O:96]C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"CC[O:72]/[C:11](=[C:10](\[N+:61]#[N:62])[C:81](=[O:82])[O:92]CC)[O-:12].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1>>CC[O:72][C:11]([C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1)([N+:61]#[N:62])[C:81](=[O:82])[O:92]CC)=[O:12] 10,11=10,20;12=11,12"
CC1(C)C[C:71](=[O:72])[C-:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1(C)C[C:71](=[O:72])[C:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1 10=20
"CC(C)(C)[Si](C)(C)O[N:12](O[Si](C)(C)C(C)(C)C)[C:11](C)=[CH2:10].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>CC(C)(C)[Si](C)(C)O[N+:12](O[Si](C)(C)C(C)(C)C)=[C:11](C)[CH2:10][Cl:20].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].C[CH:10]([CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[S:20]C(F)(F)F 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)CCC[NH:10]1.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>CC1(C)CCC[NH+:10]1[CH:20]1[C:21]2(S(=O)(=O)C(F)(F)F)[N+:22]([O-])([O-:23])[C:33](=[CH:32]2)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1.C[N:10](C)[N:61]=[CH2:62]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10](C)(C)[N:61]=[CH2:62])[O:21]C)[CH:35]=[CH:36]1 10=20;20,21=21"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](C)[CH:64]=[CH:63]3)[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:61]([CH-:10][C:71](C)=[O:72])=[O:62]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]([C:61](C)=[O:62])[C:71](C)=[O:72])[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC[CH+:11][CH2:62][Si:63](C)(C)C.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([H:10])([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10,11=10,20"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCOCC2)C=C1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCOCC2)N2N=N[N:35]=[C:34]21 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
